US05166170
2-Aminoacetophenone 3-chlorophenylhydrazone
A mixture of 3.12 g 2-aminoacetophenone and 3.29 g 3-chlorophenylhydrazine in 4 ml HOAc and 20 ml EtOH was refluxed for one hour. The cooled reaction mixture was diluted with water and the precipitate was collected, washed with water, and dried to give 5.16 g solid. Recrystallization from methanol gave 2.12 g solid, m.p. 131°-134° C.

reactant | 2-aminoacetophenone | 3.12 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | 3-chlorophenylhydrazine | 3.29 g | ClC=1C=C(C=CC1)NN | C6H7ClN2
solvent | HOAc | 4 ml | CC(=O)O | C2H4O2
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | water | O | H2O
product | 2-Aminoacetophenone 3-chlorophenylhydrazone | 5.16 g | ClC=1C=C(C=CC1)NN=C(CN)C1=CC=CC=C1 | C14H14ClN3
